US04931568
25 cm3 of 3-methoxythiophene (0.25 mole), 50 cm3 of 1-nonanol (0.28 mol) and 30 cm3 of toluene were heated to 120° C. together with 1 g of p-toluenesulfonic acid, and about 9.5 cm3 of a methanol/toluene mixture were distilled off over a period of 3 hours. The workup was carried out as described in Example 1. Fractionation through a 30 cm Vigreux column at 0.26 mbar gave 42 g of 3-n-nonyloxythiophene of boiling point 102° to 105° C., which corresponds to 74% of the theoretical yield. 1H-NMR and mass spectrum confirm the structure.

reactant | 3-methoxythiophene | 0.25 mole, 25 cm3 | COC1=CSC=C1 | C5H6OS
reactant | 1-nonanol | 0.28 mol, 50 cm3 | C(CCCCCCCC)O | C9H20O
reactant | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol toluene | about 9.5 cm3 | CO.C1(=CC=CC=C1)C
product | 3-n-nonyloxythiophene | 42 g | C(CCCCCCCC)OC1=CSC=C1 | C13H22OS
